US08106221B2
Step 5. benzyl (S)-1-(N-methyl-tert-butoxycarbonylamino)-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamate
To the solution of benzyl (S)-1-(methylamino)-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamate (40 g, 130.5 mmol) and TEA (39.6 g, 391.5 mmol) in CH2Cl2 (400 mL) was added Boc2O (56.9 g, 261 mmol). The mixture was stirred at room temperature until the starting material disappeared. The mixture was concentrated in vacuo to give the crude product, which was purified through column chromatography to give the product (20 g). 1H NMR (CD3OD) δ 1.2-1.4 (m, 3H), 1.4-1.5 (s, 9H), 1.5-1.6 (m, 2H), 1.6-1.7 (m, 1H), 1.8-1.9 (m, 1H), 2.8-2.9 (s, 3H), 2.9-3.1 (m, 2H), 3.3-3.4 (m, 1H), 3.5-3.6 (m, 12H), 3.7-3.9 (dd, 3H), 5.0-5.1 (s, 2H), 7.3-7.4 (m, 5H).

reactant | benzyl (S)-1-(methylamino)-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamate | 130.5 mmol, 40 g | CNC[C@H](C[C@@H]1COCCC1)NC(OCC1=CC=CC=C1)=O | C17H26N2O3
reactant | Boc2O | 261 mmol, 56.9 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
product | benzyl (S)-1-(N-methyl-tert-butoxycarbonylamino)-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamate | 20 g | CN(C[C@H](C[C@@H]1COCCC1)NC(OCC1=CC=CC=C1)=O)C(=O)OC(C)(C)C | C22H34N2O5
